US07414061B2
c) N-Cyclopropylmethyl-3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide
As described for Example 71c, 3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid (100 mg, 0.29 mmol), instead of 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid was converted to the title compound (50 mg, 43%) which was obtained as an off-white solid. MS: m/e=399.1 [M+H]+.

reactant | 3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid | 0.29 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C=1C=C(C(=O)O)C=CC1 | C20H15N3O3
reactant | 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C20H15N3O3
product | N-Cyclopropylmethyl-3-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide | 50 mg, 43% | C1(CC1)CNC(C1=CC(=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C24H22N4O2
